US06399629B1
(C) (2S,4R)-N-tert-Butoxycarbonyl-4-(N-tert-Butoxycarbonylglycylamino)-2-Pyrrolidinecarboxaldehyde
The following reaction was carried under argon. Dimethyl sulfoxide (288 μL) was added to a stirred solution of oxalyl chloride (177 mL) in dichloromethane (3 mL) at −78° C. After stirring at the same temperature for 15 min, a solution of (2S,4R)-N-tert-butoxycarbonyl-4-(N-tert-butoxycarbonylglycylamino)-2-hydroxymethylpyrrolidine (151 mg) in dichloromethane (3 mL) was added. The mixture was stirred at −78° C. for 2 hr, and triethylamine (848 μL) was added to the reaction mixture. The mixture was stirred at 0° C. for 1 hr, quenched with saturated ammonium chloride, and extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (chloroform then chloroform:methanol=99:1 to 97:3, v/v) to give the titled compound (147 mg) as a colorless foam.

reactant | Dimethyl sulfoxide | 288 μL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 177 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2S,4R)-N-tert-butoxycarbonyl-4-(N-tert-butoxycarbonylglycylamino)-2-hydroxymethylpyrrolidine | 151 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)NC(CNC(=O)OC(C)(C)C)=O)CO | C17H31N3O6
reactant | triethylamine | 848 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (2S,4R)-N-tert-Butoxycarbonyl-4-(N-tert-Butoxycarbonylglycylamino)-2-Pyrrolidinecarboxaldehyde | 147 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)NC(CNC(=O)OC(C)(C)C)=O)C=O | C17H29N3O6
